US09084794B2
e) 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate
A solution of 2-bromo-2-(4-bromo-2,6-difluorophenyl)ethyl acetate (1.013 mmol) in N,N-dimethylformamide (5 mL) was treated with potassium carbonate (3.04 mmol) and 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (1.115 mmol). The reaction was stirred at room temperature overnight. The reaction solution was diluted with water (100 mL) and was extracted three times with diethyl ether. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the crude title compound as a yellow solid (405 mg of 80% pure material as estimated by 1H NMR, 65% yield). MS(ES)+ m/e 487.2/489.3 [M+H]+ (bromide isotope pattern).

reactant | 2-bromo-2-(4-bromo-2,6-difluorophenyl)ethyl acetate | 1.013 mmol | C(C)(=O)OCC(C1=C(C=C(C=C1F)Br)F)Br | C10H8Br2F2O2
reactant | potassium carbonate | 3.04 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 1.115 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate | 405 mg, 80% | C(C)(=O)OCC(N1CCC2(CN(C(CO2)=O)C2CC2)CC1)C1=C(C=C(C=C1F)Br)F | C21H25BrF2N2O4
